US05658922
3-Acetoxy-pregn-5-ene-20-ol
Sodium borohydride (21 gm) was added to a solution of pregnenolone acetate (100 g, 0.28 mol) in absolute ethanol (1 L) and methylene chloride (0.4 L) at -10° C. After stirring overnight at 4° C., another amount of sodium borohydride (10.5 gm) was added and the reaction stirred at room temperature overnight. The reaction mixture was quenched by pouring into 5% sodium phosphate monobasic (2 L) and extracted with methylene chloride. The organic extracts were dried over anhydrous magnesium sulfate and filtered through a pad of anhydrous sodium sulfate. The solvent was removed by rotoevaporation to give the title compound (97.6 gm, 87% yield).

reactant | Sodium borohydride | 21 gm | [BH4-].[Na+]
reactant | pregnenolone acetate | 0.28 mol, 100 g | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)OC(=O)C)C)C | C23H34O3
reactant | sodium borohydride | 10.5 gm | [BH4-].[Na+]
solvent | ethanol | 1 L | C(C)O | C2H6O
solvent | methylene chloride | 0.4 L | C(Cl)Cl | CH2Cl2
product | 3-Acetoxy-pregn-5-ene-20-ol | 97.6 gm, 87% yield | C(C)(=O)OC1CC2=CC[C@H]3[C@@H]4CC[C@H](C(C)O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C23H36O3
